US06103766
Preparation of 2-[4-(2-chloro-4-fluorobenzenesulfonamido)phenyl]ethyl-1-propylamine (9)
Using procedure 4, 2-chloro-4-fluorobenzenesulfonyl chloride was added to 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine to give the title compound as a solid, m.p. 165-167° C.

reactant | 2-chloro-4-fluorobenzenesulfonyl chloride | ClC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine | NC1=CC=C(C=C1)CCNC(CC)C(=O)OC(C)(C)C | C16H26N2O2
product | 2-[4-(2-chloro-4-fluorobenzenesulfonamido)phenyl]ethyl-1-propylamine | ClC1=C(C=CC(=C1)F)S(=O)(=O)NC1=CC=C(C=C1)CCNCCC | C17H20ClFN2O2S
